US08039480B2
Methyl (S)-2-benzyloxycarbonylamino-4,4-difluoro-5-phenylpentanoate
Trimethylsilyl chloride (0.61 g, 5.61 mmol, 2 eq) was added dropwise to a solution of (S)-2-benzyloxycarbonylamino-4,4-difluoro-5-phenylpentanoic acid (1.02 g, 2.81 mmol) in 40 ml of methanol. After the addition had ended, the mixture was stirred at RT for 3 h. The solvent was removed under reduced pressure and the residue was used crude in the reaction which followed.

reactant | Trimethylsilyl chloride | 5.61 mmol, 0.61 g, 2 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | (S)-2-benzyloxycarbonylamino-4,4-difluoro-5-phenylpentanoic acid | 2.81 mmol, 1.02 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC(CC1=CC=CC=C1)(F)F | C19H19F2NO4
solvent | methanol | 40 ml | CO | CH4O
product | Methyl (S)-2-benzyloxycarbonylamino-4,4-difluoro-5-phenylpentanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC(CC1=CC=CC=C1)(F)F | C20H21F2NO4
